US04371540
Preparation of N,N-di-(2-hydroxyethyl)-2-(2-nitro-1-imidazolyl)acetamide (SR-2555)
A mixture of 4.00 g (21.6 mmol) of methyl 2-nitroimidazole-1-acetate and 4.0 g (38.0 mmol) of diethanolamine in 60.0 ml of methanol was stirred four days at room temperature. After removing the excess diethanolamine, the product was dissolved in 10 ml of methanol and chromatographed through a column of silica gel (70-230 mesh). Elution with 10% methanol in methylene chloride afforded 5.38 g (96%) of product as a hard gum that crystallized after several days to a cream colored hygroscopic solid on silica gel with 20% methanol in methylene chloride (Rf 0.47) and analyzed correctly for C9H14N4O5. The solubility of SR-2555 in 0.9% saline solution was over 300 mg/ml.

reactant | methyl 2-nitroimidazole-1-acetate | 21.6 mmol, 4.00 g | [N+](=O)([O-])C=1N(C=CN1)CC(=O)OC | C6H7N3O4
reactant | diethanolamine | 38.0 mmol, 4.0 g | N(CCO)CCO | C4H11NO2
solvent | methanol | 60.0 ml | CO | CH4O
product | N,N-di-(2-hydroxyethyl)-2-(2-nitro-1-imidazolyl)acetamide | 5.38 g, 96% | OCCN(C(CN1C(=NC=C1)[N+](=O)[O-])=O)CCO | C9H14N4O5
